US05616601
Step 1: Preparation of 4-chloro-N-[4-(methylsulfonyl)phenyl]benzenecarboximidamide
To a suspension of 4-(methylsulfonyl)aniline (7 g, 41 mmol) in toluene (400 mL), trimethylaluminum (2M solution in toluene, 30.5 mL, 61 mmol) was added over 15 minutes. The reaction mixture was warmed to room temperature and stirred for 2.5 hours. A solution of 4-chlorobenzonitrile (11.3 g, 82 mmol) in toluene (200 mL) was added over 10 minutes and the reaction mixture was heated to 80°-85° C. After 16 hours, the reaction mixture was cooled to room temperature and poured over a slurry of silica gel in chloroform. After filtration, the residue was washed with a mixture of methylene chloride/methanol. The combined filtrates were concentrated in vacuo and the resulting yellowish solid was stirred with a mixture of hexane/ether (2/1, 1000 mL). The intermediate was filtered and washed with more of hexane/ether (2/1). The pale yellow solid 4-chloro-N-[4-(methylsulfonyl)phenyl]benzenecarboximidamide (10.93 g, 86%) was used in the next reaction without further purification: mp (DSC) 191° C. Anal. Calc'd. for C14H13N2SO2Cl: C, 54.46, H, 4.24, N, 9.07. Found: C, 54.42, H, 4.30, N, 9.07.

reactant | 4-(methylsulfonyl)aniline | 41 mmol, 7 g | CS(=O)(=O)C1=CC=C(N)C=C1 | C7H9NO2S
reactant | trimethylaluminum | 61 mmol, 2M, 30.5 mL | C[Al](C)C
reactant | 4-chlorobenzonitrile | 82 mmol, 11.3 g | ClC1=CC=C(C#N)C=C1 | C7H4ClN
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-chloro-N-[4-(methylsulfonyl)phenyl]benzenecarboximidamide | ClC1=CC=C(C=C1)C(NC1=CC=C(C=C1)S(=O)(=O)C)=N | C14H13ClN2O2S
